US08034827B2
b) 2-{2-[4-(4,5-Dihydro-1H-imidazol-2-yl)-phenyl]-ethyl}-isoindole-1,3-dione
Dry hydrogen chloride gas was bubbled through an ice cold solution of 4-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-benzonitrile (7.83 g, 28.3 mmol) in ethanol (400 mL) for 3 h, then the so obtained mixture was kept at 8° C. overnight. The reaction mixture was concentrated in vacuo, the residue was dissolved in dry ethanol (400 mL), ethylenediamine (2.0 mL, 29.7 mmol) was added and the reaction mixture was stirred at room temperature overnight. The mixture was concentrated in vacuo, the residue was partitioned between dichloromethane (400 mL) and concentrated ammonium hydroxide (400 mL), the phases were separated and the water phase was extracted with dichloromethane (2×200 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated. The crude product was recrystallized from 2-propanol to yield 5.58 g (62%) of the title compound as a white solid.

reactant | hydrogen chloride | Cl | ClH
reactant | 4-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-benzonitrile | 28.3 mmol, 7.83 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC=C(C#N)C=C1 | C17H12N2O2
reactant | ethylenediamine | 29.7 mmol, 2.0 mL | C(CN)N | C2H8N2
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 2-{2-[4-(4,5-Dihydro-1H-imidazol-2-yl)-phenyl]-ethyl}-isoindole-1,3-dione | 5.58 g, 62% | N1C(=NCC1)C1=CC=C(C=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C19H17N3O2
